US09233968B1
To a stirring mixture of 6-hydroxyimidazo[1,2-b]pyridazine (2.06 g, 15.259 mmol, 1 eq) in anhydrous DMF (20 mL) under nitrogen atmosphere was added triethylamine (8.51 mL, 4 eq) and N-phenyl-bis(trifluoromethanesulfonimide) (5.386 g, 1 eq). After the reaction was stirred at room temperature for 18 hours, to the reaction was added triphenylphosphine (100 mg, 0.025 eq), bis(triphenylphosphine)palladium(II) dichloride (1.07 g, 0.1 eq), copper(I) iodide (581 mg, 0.2 eq), and 3-ethynylaniline (2.394 mL, 1.5 eq) under nitrogen atmosphere. The resulting reaction mixture was heated at 60° C. for two hours. The reaction was then cooled to room temperature, diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated, the residue mixture was subject to a gradient column chromatography (from DCM to MeOH-DCM 1:25). The product fractions were collected, concentrated, and the residue was triturated with EtOAc-Hex (˜1:5) to give 3-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline as a fluffy slightly yellow solid upon filtration in amount of 2.384 g (67%).

reactant | 6-hydroxyimidazo[1,2-b]pyridazine | 15.259 mmol, 2.06 g, 1 eq | OC=1C=CC=2N(N1)C=CN2 | C6H5N3O
reactant | triethylamine | 8.51 mL, 4 eq | C(C)N(CC)CC | C6H15N
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 5.386 g, 1 eq | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triphenylphosphine | 100 mg, 0.025 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-ethynylaniline | 2.394 mL, 1.5 eq | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.07 g, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 581 mg, 0.2 eq | [Cu]I
product | 3-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline | N=1C=CN2N=C(C=CC21)C#CC=2C=C(N)C=CC2 | C14H10N4
